US07429609B2
7-Fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carboxylic acid
3.60 g of 7-fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carbonitrile was dissolved in 500 mL of ethanol, added with 154 g of potassium hydroxide, and stirred at 80° C. overnight. After cooling to room temperature, the solution was adjusted to pH 3 by 5N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, and the solvent was evaporated. The obtained crude product was purified by silica gel column chromatography, and the resultant dark brown solid was washed with 10 mL of diethyl ether, to afford 3.58 g of the title compound as dark brown crystals.

reactant | 7-fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carbonitrile | 3.60 g | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C=1C=NC=CC1)C#N | C34H23FN4
reactant | potassium hydroxide | 154 g | [OH-].[K+]
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | 7-Fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1-trityl-1H-indazole-5-carboxylic acid | 3.58 g | FC=1C=C(C=C2C(=NN(C12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C=1C=NC=CC1)C(=O)O | C34H24FN3O2
